US04171371
(c) 4-(4-Methoxybenzyl)benzoic acid
A mixture of 120 g. of ethyl 4-(4-methoxybenzyl)-benzoate, 500 ml. of 2 N sodium hydroxide solution and 250 ml. of ethanol was heated at reflux for two hours. The reaction mixture was cooled, diluted with water and extracted with ether. The aqueous layer was acidified with hydrochloric acid and the precipitate which formed was collected and dried to give 100 g. of 4-(4-methoxybenzyl)benzoic acid, m.p. 152°-153° C. when recrystallized from aqueous ethanol.

reactant | ethyl 4-(4-methoxybenzyl)-benzoate | COC1=CC=C(CC2=CC=C(C(=O)OCC)C=C2)C=C1 | C17H18O3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(4-Methoxybenzyl)benzoic acid | COC1=CC=C(CC2=CC=C(C(=O)O)C=C2)C=C1 | C15H14O3
